US04416821
16-Methyleneandrosta-1,4,9(11)-triene-3,17-dione (III)
Androsta-1,4,9(11)-triene-3,17-dione (I, 0.7 g) in THF (8 ml) and dimethyloxylate (0.44 g) were combined and cooled to 3° in an ice bath. Sodium methoxide in methanol (25%, 0.685 ml) was added dropwise with no temperature rise. TLC after about 1/2 hr showed the reaction was nearly completed. Acetic acid (0.05 ml), triethylamine (0.26 ml) and methanol (1 ml) were added. Formaldehyde (37%, 0.28 ml) was added and the reaction mixture stirred at 20°-25°. TLC, after approximately 11/2 hrs. showed the reaction was complete. The reaction mixture was added to water and extracted with ethyl acetate. The layers were separated, the aqueous layer was extracted with ethyl acetate and combined with the organic extract. The combined organic extract was washed with water and separated from the organic layer. Methylene chloride was added and the mixture dried over sodium sulfate. The mixture was filtered and the filtrate was concentrated under reduced pressure to an oil. Acetone was added and the title compound was obtained upon crystallization.

reactant | Androsta-1,4,9(11)-triene-3,17-dione | 0.7 g | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)=O | C19H22O2
reactant | Sodium methoxide | C[O-].[Na+]
reactant | Acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
reactant | Formaldehyde | 0.28 ml | C=O | CH2O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | methanol | 0.685 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
solvent | water | O | H2O
solvent | triethylamine | 0.26 ml | C(C)N(CC)CC | C6H15N
product | 16-Methyleneandrosta-1,4,9(11)-triene-3,17-dione | C=C1C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)=O | C20H22O2
